US09301951B2
Intermediate 14b: 5-fluoro-2-nitrophenyl trifluoromethanesulfonate
Into a 250-mL round bottom flask, was placed a solution of 5-fluoro-2-nitrophenol (5 g, 31.85 mmol, 1.00 equiv) in pyridine (25 mL). This was followed by the addition of trifluoromethanesulfonic anhydride (9.6 g, 34.04 mmol, 1.07 equiv) dropwise with stirring at 0° C. The resulting solution was stirred for 1 h at 0° C., overnight at room temperature. The resulting solution was diluted with 100 mL of water. The resulting solution was extracted with 3×100 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 3×100 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The product was obtained as 5 g (54%) of a yellow oil.

reactant | 5-fluoro-2-nitrophenol | 31.85 mmol, 5 g, 1.00 equiv | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | trifluoromethanesulfonic anhydride | 34.04 mmol, 9.6 g, 1.07 equiv | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | 5-fluoro-2-nitrophenyl trifluoromethanesulfonate | 5 g, 54% | FC(S(=O)(=O)OC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C7H3F4NO5S
